US08017602B2
Step iv) 8-Acetyl-5-(benzyloxy)-2H-benzo[b][1,4]oxazin-3(4H)-one
2-Chloroacetyl chloride (1.77 mL) was added dropwise to a stirred mixture of 1-(3-amino-4-(benzyloxy)-2-hydroxyphenyl)ethanone (5.2 g) and sodium hydrogen carbonate (3.74 g) in DMF (30 mL) and then stirred for a further 2 h. Cesium carbonate (7.90 g) was added and heated at 100° C. for 20 h. The mixture was cooled to ambient temperature, quenched with water (500 mL), extracted with ethyl acetate (2×200 mL), washed with water (3×300 mL) and brine, dried over anhydrous sodium sulfate, filtered and evaporated under vacuum. The solid residue was treated with ether, filtered and dried to afford the subtitled compound as a beige solid (5.7 g). 1H NMR (400 MHz, DMSO-d6) δ 10.33 (s, 1H), 7.55 (m, 2H), 7.39 (m, 2H), 7.34 (d, J=8.8 Hz, 1H), 7.33 (m, 1H), 6.89 (d, J=9.2 Hz, 1H), 5.27 (s, 2H), 4.67 (s, 2H), 3.32 (s, 3H).

reactant | 2-Chloroacetyl chloride | 1.77 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-(3-amino-4-(benzyloxy)-2-hydroxyphenyl)ethanone | 5.2 g | NC=1C(=C(C=CC1OCC1=CC=CC=C1)C(C)=O)O | C15H15NO3
reactant | sodium hydrogen carbonate | 3.74 g | C(O)([O-])=O.[Na+]
reactant | Cesium carbonate | 7.90 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 8-Acetyl-5-(benzyloxy)-2H-benzo[b][1,4]oxazin-3(4H)-one | 5.7 g | C(C)(=O)C1=CC=C(C2=C1OCC(N2)=O)OCC2=CC=CC=C2 | C17H15NO4
